US07723356B2
Ri) Cyclohexyl-hydroxy-thiophen-2-yl-acetic acid ethyl ester
To a stirred, cooled (0° C.) solution of ethyl thiophene-2-glyoxylate (125.6 g, 0.683 mol) in diethyl ether (2 litres) is added dropwise 2M cyclohexyl magnesium chloride in ether (400 ml, 0.8 mol) over 1 hour. After stirring at room temperature for 2 hours, the reaction is quenched by addition of saturated ammonium chloride solution (1 litre of a 270 g/l solution) and water (1 litre) ensuring the temperature does not rise above 20° C. The organic portion is separated and washed with brine (1 litre), dried over magnesium sulphate and concentrated in vacuo, to yield the titled compound as an orange oil which is used in the next step without further purification.

reactant | ethyl thiophene-2-glyoxylate | 0.683 mol, 125.6 g | S1C(=CC=C1)C(C(=O)OCC)=O | C8H8O3S
reactant | cyclohexyl magnesium chloride | 2M | C1(CCCCC1)[Mg]Cl
solvent | diethyl ether | 2 litres | C(C)OCC | C4H10O
solvent | ether | 0.8 mol, 400 ml | CCOCC | C4H10O
product | Cyclohexyl-hydroxy-thiophen-2-yl-acetic acid ethyl ester | C(C)OC(C(C=1SC=CC1)(O)C1CCCCC1)=O | C14H20O3S
